US08865712B2
f) 2-(6-Bromo-pyridin-2-yl)-3-methoxymethoxy-2-methoxymethoxymethyl-propionic acid
Lithium hydroxide (10.69 g, 254.95 mmol) was added to a solution of 2-(6-bromo-pyridin-2-yl)-3-methoxymethoxy-2-methoxymethoxymethyl-propionic acid ethyl ester (20.0 g, 50.99 mmol) in ethanol (100 ml) and water (100 ml) at rt and the reaction mixture was allowed to stir overnight. The reaction mass was concentrated under reduced pressure and acidified with dilute HCl and at 0° C. The product was extracted with ethyl acetate, washed with minimum amount of brine. Organic layer was concentrated under reduced pressure to obtain title compound as a brown liquid. Yield=18.0 g. TLC (50% ethyl acetate in hexane) Rf=0.05; LCMS: RtH8=1.383, [M+1]=364.0 and 366.0; HPLC: RtH9=3.844 min (49%) and 3.885 min. (22%).

reactant | Lithium hydroxide | 254.95 mmol, 10.69 g | [OH-].[Li+]
reactant | 2-(6-bromo-pyridin-2-yl)-3-methoxymethoxy-2-methoxymethoxymethyl-propionic acid ethyl ester | 50.99 mmol, 20.0 g | C(C)OC(C(COCOC)(COCOC)C1=NC(=CC=C1)Br)=O | C15H22BrNO6
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-(6-Bromo-pyridin-2-yl)-3-methoxymethoxy-2-methoxymethoxymethyl-propionic acid | BrC1=CC=CC(=N1)C(C(=O)O)(COCOC)COCOC | C13H18BrNO6
